### PR TITLE
Three sorries in CNodeInv_R.thy

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Solves three sorries in CNodeInv_R.thy.

Commit messages are currently garbage, but the changes are relatively simple so I will fix those later.

### CODE REVIEW

File: proof/refine/ARM/CNodeInv_R.thy [hunk 1]
```diff
@@ -583,16 +583,36 @@ lemma suspend_ctes_of_thread:
...
+   \<lbrace>\<lambda>_ s. P (ctes_of s)\<rbrace>"
+  apply (wpsimp simp: schedContextUnbindTCB_def wp: threadSet_ctes_ofT)
+     apply (clarsimp simp: ran_def tcb_cte_cases_def split: if_splits)
+  by wpsimp+
+
+crunches setConsumed, schedContextCompleteYieldTo, unbindNotification
+  for ctes_of[wp]: "\<lambda>s. P (ctes_of s)"
+  (simp: crunch_simps wp: crunch_wps)
+
+lemma schedContextUnbindTCB_ctes_of_thread:
```
Comment (mktnk3) [inline proof/refine/ARM/CNodeInv_R.thy:598]: Do we need these three lemmas? It looks like the one above (`schedContextUnbindTCB_ctes_of`) would solve all of them.

File: proof/refine/ARM/CNodeInv_R.thy [hunk 2]
```diff
@@ -583,16 +583,36 @@ lemma suspend_ctes_of_thread:
...
+
+lemma schedContextCompleteYieldTo_ctes_of_thread:
+  "schedContextCompleteYieldTo t' \<lbrace>\<lambda>s. \<exists>node. ctes_of s x = Some (CTE (ThreadCap t) node)\<rbrace>"
+  by wp
+
+lemma getSchedContext_ctes_of_thread:
+  "getSchedContext t' \<lbrace>\<lambda>s. \<exists>node. ctes_of s x = Some (CTE (ThreadCap t) node)\<rbrace>"
+  by wpsimp
+
 lemma unbindNotification_ctes_of_thread:
```
Comment (mktnk3) [inline proof/refine/ARM/CNodeInv_R.thy:610]: Maybe this one, too? Not by the same one but still.

**Review by mktnk3 — APPROVED** [review]
Nice work! The only thing is that some of the rules added seem duplicated. We could just instantiate P for specific uses, I imagine?

**Comment by mktnk3** [comment]
After some more thoughts about this, I now think these lemmas are worth having. It does help for the termination proof and it looks like there are other existing ones of the similar style.

**Comment by MitchellBuckley** [comment]
Cheers Miki. Yes it's not ideal, but its consistent with what's there. Hopefully come cleanup and sort this out at a later stage.
